US08604023B2
5-(2-Aminopyrimidin-5-yl)-7-chloro-3-(2-chlorobenzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one
Ceric ammonium nitrate (201 mg, 2.6 eq) was added portionwise to a stirred solution of 5-(2-aminopyrimidin-5-yl)-7-chloro-3-(2-chlorobenzyl)-1-(4-methoxybenzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one (75 mg) in 9:1 acetonitrile:water (9 mL:1 mL). The reaction was stirred at room temperature overnight, and then another 200 mg of ceric ammonium nitrate was added. The reaction was stirred another 3 h, and then concentrated in vacuo. The crude was partitioned between EtOH and saturated potassium carbonate. The aqueous layer was re-extracted with ethanol 4×. The combined extracts were then dried over sodium sulfate, then concentrated and purified by chromatography (Gradient: 3:1 hexanes:EtOAc to EtOAc) yielding product (44 mg, 76% yield). 1HNMR (300 MHz, DMSO-d6) δ10.78 (s, 1H), 8.18 (s, 2H), 7.62 (d, 1H), 7.50-7.13 (m, 8H), 3.70 (m, 1H), 3.50-3.32 (m, 2H). HRMS (ES+) m/z calcd for C20H15Cl2N5O [M+H]+, 412.0732. found, 412.0726.

reactant | 5-(2-aminopyrimidin-5-yl)-7-chloro-3-(2-chlorobenzyl)-1-(4-methoxybenzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one | 75 mg | NC1=NC=C(C=N1)C=1C2=C(N(C(C(N1)CC1=C(C=CC=C1)Cl)=O)CC1=CC=C(C=C1)OC)C=CC(=C2)Cl | C28H23Cl2N5O2
reactant | acetonitrile | C(C)#N | C2H3N
solvent | water | 9 mL | O | H2O
product | 5-(2-Aminopyrimidin-5-yl)-7-chloro-3-(2-chlorobenzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one | 44 mg, 76% yield | NC1=NC=C(C=N1)C=1C2=C(NC(C(N1)CC1=C(C=CC=C1)Cl)=O)C=CC(=C2)Cl | C20H15Cl2N5O
